US05580863
With 4-nitrobenzylphosphonic acid and 2,4-pentanediol, the same procedure as in Reference Example 11 was followed, to yield 4,6-dimethyl-2-(4-nitrobenzyl)-1,3,2-dioxaphosphorinane-2-oxide, which was then recrystallized from ethanol-hexane to yield colorless needles having a melting point of 152° to 153° C.

reactant | 4-nitrobenzylphosphonic acid | [N+](=O)([O-])C1=CC=C(CP(O)(O)=O)C=C1 | C7H8NO5P
reactant | 2,4-pentanediol | CC(CC(C)O)O | C5H12O2
product | 4,6-dimethyl-2-(4-nitrobenzyl)-1,3,2-dioxaphosphorinane-2-oxide | CC1OP(OC(C1)C)(CC1=CC=C(C=C1)[N+](=O)[O-])=O | C12H16NO5P
